US07344702B2
Synthesis of (±)-1-tert-butyldimethylsilyloxy-2-hydroxybutane
A 50 mL round bottom flask was charged with (±)-1,2-butanediol (1 g, 11.09 mmol) and to it was added dimethylformamide (8 mL) followed by tert-butyldimethylsilyl chloride (2.5 g, 16.64 mmol) and imidazole (1.88 g, 27.7 mmol). The reaction mixture was stirred for 10 hours after which it was diluted with dichloromethane and poured into a separatory finnel and washed with water (80 mL) and brine and dried over magnesium sulfate. After filtration and concentration the crude oil was purified by silica gel flash chromatography (hexanes:ethylacetate) to obtain 1 gm of pure desired product in 45% yield. 1H (CDCl3) δ (ppm): 3.6 (m, 1H), 3.5 (m, 1H), 3.4 (m, 1H), 2.4 (s, 1H), 1.44 (m, 2H), 0.99 (t, 3H), 0.9 (s, 9H), 0.06 (s, 6H).

reactant | (±)-1,2-butanediol | 11.09 mmol, 1 g | C(C(CC)O)O | C4H10O2
reactant | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
reactant | tert-butyldimethylsilyl chloride | 16.64 mmol, 2.5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 27.7 mmol, 1.88 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (±)-1-tert-butyldimethylsilyloxy-2-hydroxybutane | 1 gm, 45% yield | [Si](C)(C)(C(C)(C)C)OCC(CC)O | C10H24O2Si
